* ------< SPICE Library POWMOS5.LIB Created by SPICEMOD 2.4.3  03/98 >------
**********
*SRC=SFF9140;SFF9140;MOSFETs P;Power <=100V;Samsung 100V 13A 0.16ohm Low Cap
*SYM=POWMOSP
.SUBCKT SFF9140  10 20 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  75M
RS  40  3  5M
RG  20  2  6.4
CGS  2  3  1.01N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  0.98N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=-3.1 KP=13.5)
.MODEL DCGD D (CJO=1.07N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=54.8N N=1.5 RS=30.3M BV=100 CJO=675P VJ=0.8 M=0.42 TT=105N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=SFF9240;SFF9240;MOSFETs P;Power >100V;Samsung 200V 8A 0.344ohm Low Cap
*SYM=POWMOSP
.SUBCKT SFF9240  10 20 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.162
RS  40  3  9.6M
RG  20  2  8.7
CGS  2  3  1.04N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  0.94N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=417K THETA=58.1M ETA=2M VTO=-3.1 KP=7.11)
.MODEL DCGD D (CJO=1.04N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=31.5N N=1.5 RS=59.2M BV=200 CJO=542P VJ=0.8 M=0.42 TT=150N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=SFF9244;SFF9244;MOSFETs P;Power >100V;Samsung 250V 6A 0.549ohm Low Cap
*SYM=POWMOSP
.SUBCKT SFF9244  10 20 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.26
RS  40  3  14.7M
RG  20  2  10
CGS  2  3  1.04N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  804P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=521K THETA=58.1M ETA=2M VTO=-3.1 KP=7.13)
.MODEL DCGD D (CJO=834P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=24.9N N=1.5 RS=79.2M BV=250 CJO=473P VJ=0.8 M=0.42 TT=150N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=SFH9140;SFH9140;MOSFETs P;Power <=100V;Samsung 100V 19A 0.161ohm Low Cap
*SYM=POWMOSP
.SUBCKT SFH9140  10 20 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  75.5M
RS  40  3  5.03M
RG  20  2  3.89
CGS  2  3  0.98N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  0.97N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=-3.1 KP=11.2)
.MODEL DCGD D (CJO=1.07N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=78.9N N=1.5 RS=21.1M BV=100 CJO=675P VJ=0.8 M=0.42 TT=105N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=SFH9240;SFH9240;MOSFETs P;Power >100V;Samsung 200V 11A 0.344ohm Low Cap
*SYM=POWMOSP
.SUBCKT SFH9240  10 20 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.162
RS  40  3  9.6M
RG  20  2  6.6
CGS  2  3  1.04N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  0.94N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=417K THETA=58.1M ETA=2M VTO=-3.1 KP=7.39)
.MODEL DCGD D (CJO=1.04N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=45.7N N=1.5 RS=40.9M BV=200 CJO=542P VJ=0.8 M=0.42 TT=150N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=SFH9244;SFH9244;MOSFETs P;Power >100V;Samsung 250V 9A 0.549ohm Low Cap
*SYM=POWMOSP
.SUBCKT SFH9244  10 20 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.26
RS  40  3  14.7M
RG  20  2  7.2
CGS  2  3  1.04N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  804P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=521K THETA=58.1M ETA=2M VTO=-3.1 KP=7.18)
.MODEL DCGD D (CJO=834P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=36.1N N=1.5 RS=54.6M BV=250 CJO=473P VJ=0.8 M=0.42 TT=150N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
